US07691882B2
5-Bromo-2-phenylsulfanyl-pyridine
To an N,N-dimethylformamide (20 mL) solution of thiophenol (1.02 g, 9.28 mmol) was added sodium hydride (446 mg, 9.28 mmol, 50% in oil), which was stirred for 15 minutes at room temperature. 2,5-Dibromopyridine (2.00 g, 8.44 mmol) was then added to this reaction mixture and stirred for 35 minutes at room temperature, and then for a further 45 minutes at 55° C. Water was added to the reaction solution at room temperature, which was then extracted with ethyl acetate. The organic layer was separated, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by NH silica gel column chromatography (heptane:ethyl acetate:=4:1) to obtain the title compound (2.24 g, quant.).

reactant | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
reactant | thiophenol | 9.28 mmol, 1.02 g | C1(=CC=CC=C1)S | C6H6S
reactant | sodium hydride | 9.28 mmol, 446 mg | [H-].[Na+]
reactant | 2,5-Dibromopyridine | 8.44 mmol, 2.00 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
solvent | Water | O | H2O
product | 5-Bromo-2-phenylsulfanyl-pyridine | 2.24 g | BrC=1C=CC(=NC1)SC1=CC=CC=C1 | C11H8BrNS
